US07399775B2
2-[Chloro-(2,5-difluorophenyl)methyl]-3-methylpyridine hydrochloride
Under an argon atmosphere, a tetrahydrofuran solution (1.5 ml, 3 mmol) of isopropylmagnesium chloride was added dropwise to a tetrahydrofuran (2.0 ml) solution of 2-bromo-3-methylpyridine (510 mg, 3 mmol) under ice cooling and the mixture was stirred at room temperature for 60 minutes. Under ice cooling, 2,5-difluorobenzaldehyde (328 μl, 3 mmol) was added dropwise to the resulting brown solution. The temperature of the reaction mixture was then raised gradually to room temperature. After addition of a saturated aqueous solution of ammonium chloride, the resulting mixture was extracted with ethyl acetate. After drying the solvent, the residue obtained by concentration under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=8:1) to yield a mixture containing the title compound. To the resulting mixture were added thionyl chloride (2.0 ml) and a drop of dimethylformamide, followed by stirring at room temperature for 14 hours. Distillation of excess thionyl chloride under reduced pressure yielded a white precipitate. The resulting white precipitate was triturated with hexane and diethyl ether, whereby the title compound (101 mg, 12%) was obtained.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-bromo-3-methylpyridine | 3 mmol, 510 mg | BrC1=NC=CC=C1C | C6H6BrN
reactant | 2,5-difluorobenzaldehyde | 3 mmol, 328 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mmol, 1.5 ml | O1CCCC1 | C4H8O
product | 2-[Chloro-(2,5-difluorophenyl)methyl]-3-methylpyridine hydrochloride | Cl.ClC(C1=NC=CC=C1C)C1=C(C=CC(=C1)F)F | InChI=1S/C13H10ClF2N.ClH/c1-8-3-2-6-17-13(8)12(14)10-7-9(15)4-5-11(10)16;/h2-7,12H,1H3;1H
